US08802673B2
To a 10 ml glass vial was added (S)-2-(4-bromo-phenyl)-morpholine-4-carboxylic acid tert-butyl ester (70 mg, CAS 1131220-37-5) and 5-trifluoromethyl-pyrimidin-2-ylamine (66.7 mg, CAS 69034-08-8) in dioxane (2 ml). The reaction mixture was purged with argon for 5 min. 2-Di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (14.3 mg), tris(dibenzylideneacetone)dipalladium(0) (7.49 mg) and sodium tert-butoxide (21.6 mg) were then added. The vial was capped and heated at 120° C. for 16 h. The reaction mixture was then filtered through sintered glass and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography (silica gel; gradient: 0% to 50% EtOAc in hexanes) to afford (S)-2-[4-(5-trifluoromethyl-pyrimidin-2-ylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester (94 mg, quant.) as an off-white solid. MS (ISP): 425.2 ([M+H]+).

reactant | (S)-2-(4-bromo-phenyl)-morpholine-4-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C1=CC=C(C=C1)Br | C15H20BrNO3
reactant | 5-trifluoromethyl-pyrimidin-2-ylamine | 66.7 mg | FC(C=1C=NC(=NC1)N)(F)F | C5H4F3N3
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (S)-2-[4-(5-trifluoromethyl-pyrimidin-2-ylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester | 94 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C1=CC=C(C=C1)NC1=NC=C(C=N1)C(F)(F)F | C20H23F3N4O3
